US05399712
A stirred solution of 406 mg (2 mmol) of 1-methyl-3-indolylglyoxylic acid in 20ml of dichloromethane was treated with 202 mg (2 mmol) of triethylamine and 273 mg (2 mmol) of isobutyl chloroformate. After 0.5 hour, the solution was added dropwise to a stirred solution of 533 mg (2 mmol) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride and 808 mg (8 mmol) of triethylamine in 50 ml of dichloromethane. The solution obtained was heated to reflux under nitrogen for 18 hours, cooled and treated with 1.9 g (10 mmol) of p-toluenesulfonic acid. After 1 hour, the solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel using dichloromethane/ethyl acetate (8:1) for the elution to give 107 mg(30% ) of 3,4-bis-(1 -methyl-3-indolyl)-1H-pyrrole-2,5-dione in the form of an orange colored solid of melting point >310° C.

reactant | 1-methyl-3-indolylglyoxylic acid | 2 mmol, 406 mg | CN1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C11H9NO3
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2 mmol, 273 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 2 mmol, 533 mg | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | triethylamine | 8 mmol, 808 mg | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 10 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 20ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3,4-bis-(1 -methyl-3-indolyl)-1H-pyrrole-2,5-dione | 107 mg, 30% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H17N3O2
